US05512431
5-Hydroxymethyldeoxycytidine is synthesized according to the published procedure of Itahara et al. (Chem. Lett. 1591-1594, 1991). To 5-methyl-2'-deoxycytidine (0.5 mmol, available from Sigma Chemical Company) in 100 mL of sodium phosphate buffer (pH 7.0) Na2S2O8 (0.5 mmol) is added and the reaction mixture stirred at 75° C. for 4 hours under argon. The reaction mixture is then concentrated and the crude 5-hydroxymethyldeoxycytidine is purified on a LiChroprep reversed-phase HPLC column by eluting with 0.05 M sodium phosphate (pH 7.0) and evaporation of the appropriate fractions.

reactant | 5-methyl-2'-deoxycytidine | 0.5 mmol | CC=1C(=NC(N([C@H]2C[C@H](O)[C@@H](CO)O2)C1)=O)N | C10H15N3O4
reactant | sodium phosphate | 0.5 mmol, 100 mL, pH 7.0 | P(=O)([O-])([O-])[O-].[Na+].[Na+].[Na+]
product | 5-Hydroxymethyldeoxycytidine | OCC=1C(=NC(N([C@H]2C[C@H](O)[C@@H](CO)O2)C1)=O)N | C10H15N3O5
